US04115224
514 grams (3.85 mol) of anhydrous aluminum chloride was put into 2 liters of carbon tetrachloride. While stirring vigorously, 302 grams (3.85 mol) of acetylchloride was added over a period of 1 hour at a temperature below 10° C. Subsequently, 469 grams (3.5 mol) of tert.butylbenzene was added to the reaction mixture over a period of 3 hours at a temperature below 5° C. After stirring for 1 hour without cooling, the reaction mixture was poured into a mixture of 500 milliliters of water, 1.7 kilograms of ice and 150 milliliters of 35% hydrochloric acid. The organic phase was separated, washed to neutrality and dried. After the solvent had been distilled off, 600 grams of 4'-tert.butylacetophenone was obtained having a refractive index nD20 = 1.5212. 444 grams (2.02 mol) of the above-described 4'-tert.butylacetophenone was mixed with 1.25 liters of glacial acetic acid and heated to 60° C. while stirring. Subsequently, at a reaction temperature of about 60° C., 375 grams (5.28 mol) of gaseous chlorine was passed into the reaction mixture for 41/2 hours. After the reaction mixture had been freed from hydrogen chloride gas and the excess of chlorine by passing through nitrogen, 414 grams (5.05 mol) of anhydrous sodium acetate was added and then the reaction mixture was heated to 95° C. Subsequently, another 185 grams (2.60 mol) of gaseous chlorine was passed into the reaction mixture for 2 hours at a temperature of about 95° C. The excess of chlorine was again removed with the aid of nitrogen and then the hot reaction mixture was filtered. After the addition of 63 milliliters of water, the clear filtrate was cooled to room temperature, which caused 2,2,2-trichloro-4'-tert.butylacetophenone to crystallize out. After filtering off by suction, washing and drying, 530 grams of white crystalline final product was obtained, having a melting point of 61.5° - 62.5° C.

reactant | aluminum chloride | 3.85 mol, 514 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 3.85 mol, 302 grams | C(C)(=O)Cl | C2H3ClO
reactant | tert.butylbenzene | 3.5 mol, 469 grams | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | hydrochloric acid | 150 milliliters | Cl | ClH
solvent | water | 500 milliliters | O | H2O
solvent | carbon tetrachloride | 2 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4'-tert.butylacetophenone | 600 grams | C(C)(C)(C)C1=CC=C(C=C1)C(C)=O | C12H16O
